US08071803B2
To a solution of dicyclohexylamine (13.19 g, 72.72 mmol) in THF (90 mL) 1.6 M n-BuLi in hexane (40.7 mL, 65.12 mmol) was added with stirring over 50 min at temperature between −20° C. and −15° C. The orange suspension was stirred 10 min at −20° C. and then warmed up to 0° C. To this suspension a solution of cyclohexanecarboxylic acid t-butyl ester (10.0 g, 54.3 mmol) in THF (30 mL) was added over 15 min at 0° C. The resulting solution was stirred 30 min at 0° C., then 1-bromo-2-ethylbutane (12.54 g, 76.0 mmol) in THF (37.5 mL) was added at the same temperature over 15 min. Stirring was continued 5 h at 0° C. and overnight at room temperature. At 5° C. cold water (25 mL) was added, followed by 2N HCl (60 mL). The white suspension was filtered and the filter cake was washed with water and toluene. The organic phase of the filtrate was washed with sat. aq. NaHCO3 and with aq. NaCl. The aqueous phases were extracted with toluene. The organic phases were combined, dried over sodium sulfate and concentrated. The crude product (12.9 g) was distilled at 60° C. (0.05 mbar) to give 7.6 g (52%) 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid t-butyl ester as a colorless oil, purity 96% (GC area). 1H-NMR (CDCl3, 400 MHz): ppm 0.81 (t, 6H), 1.12-1.60 (m, 15H), 1.48 (s, 9H), 1.95-2.05 (m, 2H).

reactant | dicyclohexylamine | 72.72 mmol, 13.19 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | hexane | 65.12 mmol, 40.7 mL | CCCCCC | C6H14
reactant | cyclohexanecarboxylic acid t-butyl ester | 54.3 mmol, 10.0 g | C(C)(C)(C)OC(=O)C1CCCCC1 | C11H20O2
reactant | 1-bromo-2-ethylbutane | 76.0 mmol, 12.54 g | BrCC(CC)CC | C6H13Br
reactant | HCl | 2N, 60 mL | Cl | ClH
solvent | THF | 1.6 M, 90 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 37.5 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid t-butyl ester | 7.6 g, 52% | C(C)(C)(C)OC(=O)C1(CCCCC1)CC(CC)CC | C17H32O2
